US06281227B1
A. 5-Chloro-1H-pyrrolo[3,2-b]pyridine
A mixture of pyrrolo[3,2-b]pyrid-5-one (prepared according to the procedure described in J. Med. Chem. 1990, 33, 2087) (1.33 g, 9.91 mmol) and 20 mL of phosphorous oxychloride is heated in a sealed Parr high pressure stainless steel vessel at 180° C. for 2.5 hours. After cooling, excess phosphorous oxychloride is removed in vacuo. The residue is cooled in an ice bath and quenched with ice water. The resulting mixture is neutralized by addition of saturated NaHCO3 solution and extracted with EtOAc (3×). The combined organic layers are dried over MgSO4, filtered and concentrated in vacuo. The crude product (1.07 g, 7.01 mmol) is used in the subsequent step without further purification.

reactant | pyrrolo[3,2-b]pyrid-5-one | N=1C=CC2=NC(C=CC21)=O | C7H4N2O
reactant | phosphorous oxychloride | 20 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 5-Chloro-1H-pyrrolo[3,2-b]pyridine | ClC1=CC=C2C(=N1)C=CN2 | C7H5ClN2
